US05624951
A. 7-benzyloxy-4-hydroxy-8-methyl-3-(3'-bromophenylcarbamoyl]coumarin
According to the procedure of example 2, 7-benzyloxy-4-hydroxy-8-methylcoumarin (0.813 g, 2.88 mmol) and 3-bromophenylisocyanate (0.39 ml, 3.12 mmol) were reacted in the presence of triethylamine (0.1 ml) to generate the title compound as an off-white solid, mp 229°-231° C., (0.211 g, 0.44 mmol, yield 15.2%). Analysis: Calculated for C24H18NO5Br: C, 601.13; H, 3.76; N, 2.92. Found: C, 60.04; H, 3.51; N, 2.89. 1H NMR (CDCl3): 7.94 (br s, 1H), 7.87 (d, J=9.0 Hz, 1H), 7.48 (d, J=7.6 Hz, 1H), 7.41 (m, 5H), 7.24 (m, 2H), 6.97 (d, J=9.0 Hz, 1H), 5.21 (s, 2H), 2.36 (s, 3H).

reactant | 7-benzyloxy-4-hydroxy-8-methylcoumarin | 2.88 mmol, 0.813 g | C(C1=CC=CC=C1)OC1=CC=C2C(=CC(OC2=C1C)=O)O | C17H14O4
reactant | 3-bromophenylisocyanate | 3.12 mmol, 0.39 ml | BrC=1C=C(C=CC1)N=C=O | C7H4BrNO
solvent | triethylamine | 0.1 ml | C(C)N(CC)CC | C6H15N
product | 7-benzyloxy-4-hydroxy-8-methyl-3-(3'-bromophenylcarbamoyl]coumarin | yield 15.2% | C(C1=CC=CC=C1)OC1=CC=C2C(=C(C(OC2=C1C)=O)C(NC1=CC(=CC=C1)Br)=O)O | C24H18BrNO5
